US04794181
To a solution of 1-hydroxy-2,3,4,5-tetrahydro-3-(p-toluenesulfonyl)-3-benzazepine (15 g, 47 mmole), p-methoxyphenol (7 g, 57 mmole) and triphenylphosphine (15 g, 57 mmole) in 300 ml benzene, cooled with an ice bath, was slowly dropped a solution of diethyl azodicarboxylate (10 g, 57 mmole) in 100 ml benzene. After stirring two hours at ambient temperature, the reaction mixture was filtered to remove sym-dicarbethoxyhydrazine (8 g, 96%, m.p. 130°-132° C.), then evaporated to an oil which was purified by column chromatography (silica gel, dichloromethane) to give an oil. This oil was crystallized from hexane-ether to give 6 g (30%) of 1-(p-methoxyphenoxy)-2,3,4,5-tetrahydro-3-(p-toluenesulfonyl)-3-benzazepine, m.p. 84°-85° C.

reactant | 1-hydroxy-2,3,4,5-tetrahydro-3-(p-toluenesulfonyl)-3-benzazepine | 47 mmole, 15 g | OC1CN(CCC2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C17H19NO3S
reactant | p-methoxyphenol | 57 mmole, 7 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | triphenylphosphine | 57 mmole, 15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 57 mmole, 10 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-(p-methoxyphenoxy)-2,3,4,5-tetrahydro-3-(p-toluenesulfonyl)-3-benzazepine | 6 g, 30% | COC1=CC=C(OC2CN(CCC3=C2C=CC=C3)S(=O)(=O)C3=CC=C(C=C3)C)C=C1 | C24H25NO4S
